Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
lisinopril / morphine / amlodipine
 
Attending: ___
 
Chief Complaint:
Headache, nausea, vomiting
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
 Mr. ___ ___ yo male PMH afib on Coumadin (INR 2.1) & HTN p/w 
sudden onset headache, nausea, vomiting, which began two days 
ago, found to have an intraventricular hemorrhage on ___ CT. He 
presented to ___ where a CT ___ was obtained 
showing a large intraventricular hemorrhage in the right lateral 
ventricle and third ventricle. He was given K Centra with repeat 
INR 1.7.  The patient was transferred to ___ and admitted to 
Neurology for further management.  The patient was initiated on 
a NiCARdipine gtt in the Emergency room for SBP < 150 and 
admitted to the ___.

 
Past Medical History:
Glaucoma  
 Status post cataract surgery bilaterally  
 Hypertension  
 Hyperlipidemia  
 Atrial fibrillation  
 Mitral valve prolapse  
 Peripheral neuropathy  
 Nephrolithiasis  
 Peptic ulcer disease  
 Gout  
 History of basal cell carcinoma  
 Foot ulcer status post amputation in the setting of left great 
toe osteomyelitis (___)  
 Bilateral lumbar fusion  
 Total hip arthroplasty (___)  
 Correction of hammertoe on the left (___)  

 
Social History:
Patient is currently working part-time in the Department of
___ and family ___ doing ___ work.  He is a 
former
smoker; quit in ___.  He has a 20-pack-year smoking history.  
He
has 1 drink of alcohol monthly.  He denies any drug use.  He 
does
not walk with any assistive devices.

- Modified Rankin Scale:
[x] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead

 
Family History:
No family history of stroke, AVM or aneurysm.
 
Physical Exam:
Admission exam:
Vitals: T: 97.2 P: 88 R: 16  BP: 126/68 SaO2: 96% RA
General: Awake, cooperative, appears to be in pain
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and sluggishly reactive. EOMI
without nystagmus. VFF to confrontation after repeated attempts. 

Initially, it appeared that he may have had a left inferior
quadrantanopia but this resolved.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk, tone throughout.  Left pronator drift.
No adventitious movements, such as tremor, noted. 
  Delt Bic Tri WrE  FE  IP Quad Ham  TA Gastroc   
L  4+   ___   ___    5   5     5         
R  5    ___   ___    5   5     5         

-Sensory: No deficits to light touch, pinprick, proprioception
throughout. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   0
R  2  2    2    2   0
Plantar response was mute bilaterally, although difficult to
assess on the left due to big toe amputation.

-Coordination: No intention tremor. No dysmetria on FNF
bilaterally.

-Gait: Deferred

EXAM ON DISCHARGE:

General: sleepy but easily arousable, ice packs around forehead
HEENT: NC/AT, no scleral icterus noted, MMM
Pulmonary: Normal work of breathing  
Cardiac:  warm, well-perfused  
Abdomen: soft, non-distended  
Extremities: No ___ edema.  
Skin: no rashes or lesions noted.  

Neurologic:
- Mental status: Easily awakened, alert. Oriented to self, 
place, date, year. speech is fluent.
- Cranial Nerves: PERRL 3 to 2mm bilaterally. EOMI
without nystagmus. Left visual field extinction. Facial 
musculature full, with slight left NLFF on rest only. 
- Motor: Normal bulk, tone throughout.   
  Delt Bic Tri WrE FE IP Quad Ham TA Gastroc  
L  5    ___  ___   ___  
R  5    ___  ___   ___  
- Sensory: intact throughout to light touch.
- DTRs: 1+ throughout. Plantar response mute bilaterally.

 
Pertinent Results:
LABS:

___ 04:40AM BLOOD WBC-10.4* RBC-4.89 Hgb-15.2 Hct-45.4 
MCV-93 MCH-31.1 MCHC-33.5 RDW-14.0 RDWSD-47.0* Plt ___
___ 06:20AM BLOOD WBC-10.7* RBC-4.79 Hgb-14.6 Hct-44.3 
MCV-93 MCH-30.5 MCHC-33.0 RDW-13.8 RDWSD-46.5* Plt ___
___ 04:40AM BLOOD Plt ___
___ 04:40AM BLOOD ___
___ 04:40AM BLOOD Glucose-108* UreaN-33* Creat-1.3* Na-140 
K-3.6 Cl-99 HCO3-28 AnGap-13
___ 09:15AM BLOOD %HbA1c-5.2 eAG-103
___ 09:15AM BLOOD Triglyc-107 HDL-50 CHOL/HD-3.7 
LDLcalc-115
___ 09:15AM BLOOD TSH-2.2
___ 10:25PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

IMAGING: 

Non-Contrast CT of ___ (osh read): There is a large
intraventricular hemorrhage filling in dilating the right 
lateral
ventricle and the third ventricle with surrounding edema and 
mild
mass-effect on the right temporal and parietal lobes.  Minimal
layering hemorrhage in the left lateral ventricle.

CTA ___ and neck (outside hospital read): Normal angiogram of
the ___ and neck.  Upper mediastinal lymphadenopathy.  
Recommend
further evaluation with nonemergent chest CT.

Non-contrast CT ___ ___:
IMPRESSION: 
1. Similar appearance of a large intraventricular hemorrhage 
predominantly 
expanding the right lateral ventricle and third ventricle with 
persistent 
surrounding vasogenic edema, as compared to the earlier CT study 
in ___. 
2. Interval expected redistribution of blood products is seen 
layering in the 
occipital horn of the left lateral ventricle. 
3. No new intracranial hemorrhage identified. 

MR ___ w/ and w/o contrast ___:
IMPRESSION: 
1. No evidence for intracranial mass or abnormal enhancement. 
2. Essentially unchanged appearance of large volume 
intraventricular 
hemorrhage, seen within the right greater than left lateral 
ventricles and 
third ventricle.ft 
3. Small focus of susceptibility within the left sylvian fissure 
likely 
represents an area of subarachnoid hemorrhage. 
4. Overall, no significant interval change in size of the 
ventricular system. 
5. No evidence for territorial infarction. 

Non-contrast CT ___ ___:
IMPRESSION: 
1. Evolution of interventricular hemorrhage predominantly 
expanding the right 
lateral ventricle and third ventricle.  There is persistent 
associated 
vasogenic edema. 
2. As compared to the prior exam, the right lateral ventricle is 
slightly 
larger in caliber.  The left lateral ventricle is unchanged. 
3. No new hemorrhage identified. 

 
Brief Hospital Course:
___ y/o male on Coumadin for afib w sudden headache 48 hrs prior 
to presentation, no improvement, transferred to ___ from ___ with 
large right IVH. 

Neuro ICU course ___
Neuro ICU consult requested for SBP >150 requiring NiCARdipine 
gtt for several hours.
NiCARdipine gtt discontinued early am on ___ and IV Labetalol 
and hydralazine prn ordered. He received 20 IV hydralazine at 
0400 for SBP >150. Patient vomited x 1 and Zofran 4 mg x ___s Tylenol for headache IV x 1. He received Labetalol 
labetal 20 mg IV x1 for SBP >150 at 4:45 am and has remained off 
NiCARdipine gtt. He was continued on his home antihypertensives 
and prn IV hydralazine and labetalol.  
CT ___ on ___ was stable.
  
The patient is a ___ yo man on Coumadin for atrial fibrillation 
who presented to OSH with severe headache and nausea, found to 
have right intraventricular hemorrhage. Transferred to ___ for 
further management. Initially required ICU consult for 
nicardipine gtt for blood pressure control goal SBP <150-160. 
Etiology likely hypertension, perhaps exacerbated by 
anti-coagulation with Coumadin. Vessel imaging suggested no 
vascular malformation or aneurysmal rupture, and MRI was 
negative for acute ischemic infarct or underlying mass, though 
should be repeated in ___ months. He is s/p complete reversal of 
INR. He remains neurologically intact and stable, still with 
headache but nausea resolved. We changed his blood pressure 
regimen on admission to meet his BP goal <160. 

Stroke Risk Factors:
LDL 115, TSH 2.2, A1C 5.2%, atrial fibrillation, HTN

Medication changes on this admission: Increased dose of losartan 
to 100 mg, increased metoprolol to 75 mg BID, added HCTZ. Goal 
SBP < 160

Transitional Issues:
- He spiked a fever during his hospital stay, possibly secondary 
to pain and his ICH. His fever curve resolved without antibiotic 
treatment and he has been afebrile for >24 hrs. Please follow 
blood and urine cultures. 
- We are holding anti-coagulation for at least one month after 
his stroke (___). CHADSVASC score of 2, resulting in 2.9% 
risk of stroke/TIA/systemic embolism per year. PCP ___ continue 
to discuss with patient's cardiologist.Please discuss the 
risk/benefit of resuming anti-coagulation with PCP and with 
___.
- It is safe for him to take subq heparin for DVT prophylaxis, 
please re-evaluate need as his mobility improves
- Maintain goal SBP < 160.
- LDL 115, please repeat fasting lipid panel and consider 
prescribing statin as outpatient (not acutely indicated w 
proximity of ICH)
- Repeat MRI with and without contrast in ___ months

=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
================================================================
AHA/ASA Core Measures for Intracerebral Hemorrhage  
 1. Dysphagia screening before any PO intake? (x) Yes - () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate]  
 4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No  

 
Medications on Admission:
Allopurinol ___ mg daily
Alpha lipoic acid ___ mg daily
Ascorbic acid unknown dose
Saphris, black cherry 10 mg tablet sublingually
Vitamin D3 ___ units daily
Coenzyme Q 10 200 mg daily
Colchicine 0.6 mg as needed gout flare
Gabapentin 500 mg 3 times daily
Green tea leaf extract
Lidocaine 5% topical ointment apply daily
Losartan 25 mg daily
Metoprolol succinate 50 mg daily
Omega-3 fatty acid
Resveratrol 100 mg daily
Timolol 0.5% ophthalmic solution
Warfarin 5 mg daily

 
Discharge Medications:
1.  Ascorbic Acid ___ mg PO DAILY  
2.  Heparin 5000 UNIT SC BID  
3.  Hydrochlorothiazide 25 mg PO DAILY  
4.  Metoprolol Tartrate 75 mg PO BID  
5.  Vitamin D ___ UNIT PO DAILY  
6.  Gabapentin 500 mg PO TID  
7.  Losartan Potassium 100 mg PO DAILY  
8.  Timolol Maleate 0.5% 1 DROP BOTH EYES BID  
9.  Allopurinol ___ mg PO DAILY  
10.  Colchicine 0.6 mg PO Q6H:PRN as needed for gout flare  
11.  Lidocaine 5% Ointment 1 Appl TP DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Intraventricular hemorrhage
Hypertension

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of headache, nausea and 
vomiting resulting from an ACUTE INTRACEREBRAL HEMORRHAGE, a 
condition where a blood vessel bleeds into a part of your brain. 
The brain is the part of your body that controls and directs all 
the other parts of your body, so bleeding into the brain can 
affect the way your body functions and cause the symptoms you 
experienced.

 We believe the bleeding was most likely caused by elevated 
blood pressure in combination with having your blood thinned 
while on Coumadin. Moving forward, achieving and maintaining 
good control of your blood pressure is of utmost importance. We 
are increasing your blood pressure medications to help control 
your blood pressure moving forward. Your PCP can follow up on 
your blood pressure and may make further adjustments in the 
future.

Although you were on Coumadin to prevent blood clots that could 
cause stroke due to your atrial fibrillation, we feel the risk 
of bleeding again in the future outweighs the risk of having 
blood clots.

 We are changing your medications as follows: 

 STOP taking Warfarin. 
 INCREASE your dose of Losartan from 25mg daily to 100mg daily.
 START HCTZ
 INCREASE metoprolol dosage

 Please take your other medications as prescribed.  

 Please follow up with Neurology and your primary care physician 

as listed below.  

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  

 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  

 Your ___ Neurology Team

 
Followup Instructions:
___